US07476399B2
(R)-methyl 2-(2-methoxy-4-(methylthio)benzamido)-4-methylpentanoate
Prepared in a similar manner to example 4 using 2-methoxy-4-(methylthio)benzoic acid and D-leucine methyl ester. MS (M+H, 326).

reactant | 2-methoxy-4-(methylthio)benzoic acid | COC1=C(C(=O)O)C=CC(=C1)SC | C9H10O3S
reactant | D-leucine methyl ester | COC([C@H](N)CC(C)C)=O | C7H15NO2
product | (R)-methyl 2-(2-methoxy-4-(methylthio)benzamido)-4-methylpentanoate | COC1=C(C(=O)N[C@@H](C(=O)OC)CC(C)C)C=CC(=C1)SC | C16H23NO4S
